US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (3-ethyl-5-methylisoxazole-4-yl)-amide
Starting from 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (0.20 g) and 3-ethyl-5-methylisoxazol-4-ylamine (0.20 g). Purification by column chromatography on silica eluting 20-50% ethyl acetate in heptane afforded, after trituration with diethyl ether-hexane, the title compound as a white solid (0.155 g).

reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid | 0.20 g | FC(OC1=CC=C(C2=C1N=C(O2)CC)C(=O)O)F | C11H9F2NO4
reactant | 3-ethyl-5-methylisoxazol-4-ylamine | 0.20 g | C(C)C1=NOC(=C1N)C | C6H10N2O
solvent | diethyl ether hexane | C(C)OCC.CCCCCC
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (3-ethyl-5-methylisoxazole-4-yl)-amide | 0.155 g | C(C)C1=NOC(=C1NC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F)C | C17H17F2N3O4
